US06197729B1
c) 4-(3,3,3-trifluoropropyl)cyclohexanol
At 50° C. and 150 bar hydrogen pressure, 40.7 g of 4-(3,3,3-trifluoropropyl)phenol in 800 ml of isopropanol were hydrogenated using rhodium on carbon as catalyst for 20 h. The catalyst was filtered off and the reaction solution was concentrated, to give the title product as a colourless solid which was reacted further without any purification.

reactant | hydrogen | [H][H] | H2
reactant | 4-(3,3,3-trifluoropropyl)phenol | 40.7 g | FC(CCC1=CC=C(C=C1)O)(F)F | C9H9F3O
solvent | isopropanol | 800 ml | C(C)(C)O | C3H8O
catalyst | rhodium on carbon | [Rh] | Rh
product | 4-(3,3,3-trifluoropropyl)cyclohexanol | FC(CCC1CCC(CC1)O)(F)F | C9H15F3O
